US04738957
A solution of 2.0 g of 3,16α-dihydroxy-1,3,5(10)-estratrien-17-one in 10 ml of pyridine and 5 ml of butyric anhydride is allowed to stand at room temperature for 15 hours with the addition of 100 mg of 4-dimethylaminopyridine. The reaction mixture is diluted with diethyl ether, washed with water, dried over sodium sulfate, and evaporated. The residue is chromatographed on silica gel with a pentane-diethyl ether gradient (0-30% diethyl ether), yielding 1.2 g of 3,16α-dibutyryloxy-1,3,5(10)-estratrien-17-one as an oil.

reactant | 3,16α-dihydroxy-1,3,5(10)-estratrien-17-one | 2.0 g | OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C2C=C1)=O)O | C18H22O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | butyric anhydride | 5 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,16α-dibutyryloxy-1,3,5(10)-estratrien-17-one | 1.2 g | C(CCC)(=O)OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C2C=C1)=O)OC(CCC)=O | C26H34O5
